US07867992B2
8-Chloro-6-fluoro-1-[(1S,2R)-2-fluorocyclopropyl]-7-[4-(2-morpholin-4-yl-2-oxoethyl)piperazin-1-yl]-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
The preparation takes place in analogy to Example 1A from 4-[2-(piperazin-1-yl)acetyl]morpholine and 8-chloro-6,7-difluoro-1-[(1S,2R)-2-fluorocyclopropyl]-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (for preparation see Journal of Medicinal Chemistry (1994) 37:3344-3352). The compound is used as a crude product in the subsequent reaction stages.

reactant | 4-[2-(piperazin-1-yl)acetyl]morpholine | N1(CCNCC1)CC(=O)N1CCOCC1 | C10H19N3O2
reactant | 8-chloro-6,7-difluoro-1-[(1S,2R)-2-fluorocyclopropyl]-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | ClC=1C(=C(C=C2C(C(=CN(C12)[C@@H]1[C@@H](C1)F)C(=O)O)=O)F)F | C13H7ClF3NO3
product | 8-Chloro-6-fluoro-1-[(1S,2R)-2-fluorocyclopropyl]-7-[4-(2-morpholin-4-yl-2-oxoethyl)piperazin-1-yl]-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | ClC=1C(=C(C=C2C(C(=CN(C12)[C@@H]1[C@@H](C1)F)C(=O)O)=O)F)N1CCN(CC1)CC(=O)N1CCOCC1 | C23H25ClF2N4O5
